US07723330B2
Step B: Preparation of 5-(4-(benzyloxy)-3-fluorophenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one:
A suspension of 5-bromo-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one (0.130 g, 0.436 mmol), 4-(benzyloxy)-3-fluorophenylboronic acid (0.129 g, 0.523 mmol), Pd(PPh3)4 (0.025 g, 0.022 mmol) and lithium chloride (0.092 g, 2.18 mmol) in dioxane (1.5 mL) and 2 M aqueous Na2CO3 (1.5 mL) was stirred at 100° C. for 30 minutes. The reaction mixture was cooled to room temperature and then partitioned between EtOAc and H2O. The phases were separated, and the aqueous phase was re-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude black solid. The crude product was purified by flash column chromatography, eluting with 10:1 dichloromethane/EtOAc. The desired product (0.139 g, 76%) was obtained as a grey-white solid.

reactant | 5-bromo-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one | 0.436 mmol, 0.130 g | BrC=1C(N(C(=NC1)NC1=CC=C(C=C1)F)C)=O | C11H9BrFN3O
reactant | 4-(benzyloxy)-3-fluorophenylboronic acid | 0.523 mmol, 0.129 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | lithium chloride | 2.18 mmol, 0.092 g | [Cl-].[Li+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2 M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.022 mmol, 0.025 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-(benzyloxy)-3-fluorophenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one | 0.139 g, 76% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)NC1=CC=C(C=C1)F)C)=O)F | C24H19F2N3O2
